US09376438B2
Into a 50-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (800 mg, 2.64 mmol, 1.00 equiv) in N,N-dimethylformamide (25 mL), 3-(2-bromoethyl)-1,3-thiazolidine-2,4-dione (890 mg, 3.97 mmol, 1.50 equiv) and cesium carbonate (1.72 g, 5.26 mmol, 2.00 equiv). The resulting solution was stirred for 10 h at 80° C. in an oil bath. The reaction mixture was cooled with a water bath, diluted with 150 mL of ethyl acetate and washed with brine and water. The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with dichloromethane/methanol (100/1) to give 500 mg (42%) of 3-[2-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]ethyl]-1,3-thiazolidine-2,4-dione as a light yellow solid.

reactant | 3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 2.64 mmol, 800 mg, 1.00 equiv | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NNC2=NC=NC(=C21)N | C17H13N5O
reactant | 3-(2-bromoethyl)-1,3-thiazolidine-2,4-dione | 3.97 mmol, 890 mg, 1.50 equiv | BrCCN1C(SCC1=O)=O | C5H6BrNO2S
reactant | cesium carbonate | 5.26 mmol, 1.72 g, 2.00 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 3-[2-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]ethyl]-1,3-thiazolidine-2,4-dione | 500 mg, 42% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)CCN2C(SCC2=O)=O | C22H18N6O3S
